US06656932B2
Step 3: Synthesis of 2-(4-Methanesulfonyl-benzyl)-4-methyl-1,1,3-trioxo-1,2,3,4-tetrahydro-1λ6-benzo[1,2,4]thiadiazine-7-carboxylic Acid Benzylamide
2-(4-Methanesulfonyl-benzyl)-4-methyl-1,1,3-trioxo-1,2,3,4-tetrahydro-1λ6-benzo[1,2,4]thiadiazine-7-carboxylic acid was coupled with benzyl amine according to the procedure of Example 2 to give the title compound. 1H-NMR (CDCl3); δ 8.19 (s, 1H), 8.01 (d, 1H), 7.74 (d, 2H), 7.45 (d, 2H), 7.34 (m, 6H), 6.67 (bs, 1H), 4.62 (t, 2H), 3.76 (bs, 2H), 3.22 (s, 3H) and 2.98 (s, 3H) ppm. Anal. (C24H23N3O6S2.0.5C4H10O.0.66H2O) C,H,N. MS: M++1=514.1 Da

reactant | 2-(4-Methanesulfonyl-benzyl)-4-methyl-1,1,3-trioxo-1,2,3,4-tetrahydro-1λ6-benzo[1,2,4]thiadiazine-7-carboxylic acid | CS(=O)(=O)C1=CC=C(CN2S(C3=C(N(C2=O)C)C=CC(=C3)C(=O)O)(=O)=O)C=C1 | C17H16N2O7S2
reactant | benzyl amine | C(C1=CC=CC=C1)N | C7H9N
product | 2-(4-Methanesulfonyl-benzyl)-4-methyl-1,1,3-trioxo-1,2,3,4-tetrahydro-1λ6-benzo[1,2,4]thiadiazine-7-carboxylic Acid Benzylamide | C(C1=CC=CC=C1)NC(=O)C1=CC2=C(N(C(N(S2(=O)=O)CC2=CC=C(C=C2)S(=O)(=O)C)=O)C)C=C1 | C24H23N3O6S2
